US08497278B2
6-fluoro-2-(4-fluorophenyl)-3-((1-methyl-1H-imidazol-2-yl)methyl)imidazo[1,2-a]pyridine (199)
A Teflon-capped high-pressure glass bottle was charged with (6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)(1-methyl-1H-imidazol-2-yl)methanol (2.2 g, 6.4 mmoles, 1.0 eq.), dry CH2Cl2 (60 ml) and solid P2I4 (7.3 g, 12.9 mmoles, 2.0 eq.). The bottle was flushed with N2 and heated at 40° C. for 60 hours. The reaction was quenched with NaHCO3 (200 ml, 1.0 M in water), extracted (3×200 ml CH2Cl2), the organic layer was dried with MgSO4 and concentrated on rotary evaporator. The crude residue was purified by flash chromatography (30%→70% gradient of 10% MeOH/90% EtOAc in hexanes on a 330 g silica gel column). The purified product was crystallized from hot EtOAc. Yield: 1.1 g (53%). Repeated crystallization provided additional 0.7 g (34%) having equal purity. (0.19 g, 53% yield). M/e+ 325 for C18H15F2N4 (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 8.35 (d, J=1.8 Hz, 1H), 7.68 (dd, J=7.7, 5.5 Hz, 2H), 7.57 (dd, J=9.9, 5.1 Hz, 1H), 7.25 (d, J=1.1 Hz, 1H), 7.18 (t, J=8.4 Hz, 1H), 7.11 (t, J=7.7 Hz, 1H), 6.92 (s, 1H), 6.74 (s, 1H), 4.50 (s, 2H), 3.19 (s, 3H) ppm.

reactant | (6-fluoro-2-(4-fluorophenyl)imidazo[1,2-a]pyridin-3-yl)(1-methyl-1H-imidazol-2-yl)methanol | 6.4 mmoles, 2.2 g, 1.0 eq. | FC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)C(O)C=2N(C=CN2)C | C18H14F2N4O
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 6-fluoro-2-(4-fluorophenyl)-3-((1-methyl-1H-imidazol-2-yl)methyl)imidazo[1,2-a]pyridine | 53% yield | FC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)CC=2N(C=CN2)C | C18H14F2N4
